US04636563
2,3,4,5-Tetrahydro-2-[2-(2-quinolinyl)ethyl]-1H-pyrido[4,3-b]indole
The title compound was prepared following the procedure of Example 2 with the exception that 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole was used instead of 8-fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole and 2-vinylquinoline replaced 2-vinylpyridine. The product was converted to the dihydrochloride; mp 195°-197° C.

reactant | 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | C1NCCC=2NC=3C=CC=CC3C21 | C11H12N2
reactant | 2-vinylquinoline | C(=C)C1=NC2=CC=CC=C2C=C1 | C11H9N
reactant | 2-vinylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 2,3,4,5-Tetrahydro-2-[2-(2-quinolinyl)ethyl]-1H-pyrido[4,3-b]indole | N1=C(C=CC2=CC=CC=C12)CCN1CC2=C(NC=3C=CC=CC23)CC1 | C22H21N3
